US05306728
Production of (E,E)-N-[3-[3-(3-thienyl)phenyl]-2-propenyl]-(N'-ethyl-6,6-dimethyl-2-hepten-4-ynylamino)acetamide
100 mg of (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)glycine hydrochloride was dissolved in 10 ml of methylene chloride, and 34 μl of methyl chloroformate and 0.1 ml of triethylamine were added under ice cooling. The mixture was stirred for 30 minutes, and a methylene chloride solution(5 ml) of 90 mg of (E)-3-[3-(3-thienyl)phenyl]-2-propenylamine was added, then the mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and ethyl acetate and water were added to the residue to extract it. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The desiccant was separated by filtration and the solvent was evaporated under reduced pressure. The residue was purified by medium-pressure liquid chromatography [silica gel column, hexane→hexane/ethyl acetate=5/1] to give 24 mg (yield 17%) of the captioned compound as a pale yellow oil.

reactant | (E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)glycine hydrochloride | 100 mg | Cl.C(C)N(CC(=O)O)C\C=C\C#CC(C)(C)C
reactant | methyl chloroformate | 34 μl | ClC(=O)OC | C2H3ClO2
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | (E)-3-[3-(3-thienyl)phenyl]-2-propenylamine | 90 mg | S1C=C(C=C1)C=1C=C(C=CC1)/C=C/CN | C13H13NS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (E,E)-N-[3-[3-(3-thienyl)phenyl]-2-propenyl]-(N'-ethyl-6,6-dimethyl-2-hepten-4-ynylamino)acetamide | 24 mg, yield 17% | S1C=C(C=C1)C=1C=C(C=CC1)/C=C/CNC(CN(CC)C\C=C\C#CC(C)(C)C)=O | C26H32N2OS
